US08647882B2
c. Synthesis of 2,5-dioxopyrrolidin-1-yl(S)-3-(3,5-dinitrobenzamido)-3-phenylpropionate (3-(3,5-dinitrobenzoyl)-(S)-β-phenylalanine 2,5-dioxopyrrolidin-1-yl Ester)
12 g of (S)-3-(3,5-dinitrobenzamido)-3-phenylpropionic acid from reaction b) were dissolved in 120 ml of tetrahydrofuran and admixed with 3.92 g of N-hydroxysuccinimide. With cooling in an icebath at 0-5° C., 7.1 g of dicyclohexylcarbodiimide was added in portions to the reaction mixture. On completion of addition, the mixture was left in the icebath with further stirring until the solution reached room temperature. After the reaction ended (HPLC monitoring >95 area % conversion), the precipitated dicyclohexylurea was filtered off and washed with tetrahydrofuran. The filtrate was concentrated under reduced pressure, and the residue digested at reflux in 250 ml of 2-propanol for 2 h. The product was filtered off with suction, washed with 2-propanol and dried at 50° C. under reduced pressure. The yield was 13.87 g; HPLC purity 98.8 area %.

reactant | (S)-3-(3,5-dinitrobenzamido)-3-phenylpropionic acid | 12 g | [N+](=O)([O-])C=1C=C(C(=O)N[C@@H](CC(=O)O)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C16H13N3O7
reactant | N-hydroxysuccinimide | 3.92 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 7.1 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2,5-dioxopyrrolidin-1-yl(S)-3-(3,5-dinitrobenzamido)-3-phenylpropionate | [N+](=O)([O-])C=1C=C(C(=O)N[C@@H](CC(=O)ON2C(CCC2=O)=O)C2=CC=CC=C2)C=C(C1)[N+](=O)[O-] | C20H16N4O9
